US05621109
A. (3R,4S,1'R)-4-(N-(1-Phenylethyl)amino-3-hydroxy-2,3,4,5-tetrahydrofuran
According to the procedure of Overman, et al. (J. Org. Chem. 1985, 50, 4154), 3,4-epoxy-2,5-dihydrofuran was treated with (R)-1-phenylethylamine and trimethylaluminum to give a 1:1 mixture of diastereomers. The mixture was purified by silica gel chromatography to provide the desired compound.

reactant | 3,4-epoxy-2,5-dihydrofuran | O1C=2COCC21 | C4H4O2
reactant | (R)-1-phenylethylamine | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | trimethylaluminum | C[Al](C)C
product | N-(1-Phenylethyl)amino-3-hydroxy-2,3,4,5-tetrahydrofuran | C1(=CC=CC=C1)C(C)NC1OCCC1O | C12H17NO2
